US07504521B2
Synthesis of Dibenzylhydrazine Glycine
To a solution of dibenzylhydrazine (5.30 g, 25.0 mmol) and THF (50 mL) and TBAI (0.46 g, 1.25 mmol) was added BrCH2CO2Et (2.64 mL, 23.8 mmol) and Et3N (3.32 mL, 23.8 mmol). The reaction mixture was stirred at 60° C. for 7 hours, an additional 0.3 eq. of base and electrophile were added (BrCH2CO2Et, 0.83 mL, 7.5 mmol and Et3N, 1.0 mL, 7.5 mmol). The reaction mixture was held overnight at R/T, an additional 0.3 eq. of each reagent was added and the reaction mixture was stirred at 60° C. for 4 more hours. The reaction mixture was partitioned with CH2Cl2, and the isolated organic fraction was washed with brine three (3 times), dried over Na2SO4, and concentrated in vacuo to afford 7.21 g, 24.2 mmol, (97%) of a crude oil.

reactant | dibenzylhydrazine | 25.0 mmol, 5.30 g | C(C1=CC=CC=C1)NNCC1=CC=CC=C1 | C14H16N2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | BrCH2CO2Et | 23.8 mmol, 2.64 mL | BrCC(=O)OCC | C4H7BrO2
catalyst | TBAI | 1.25 mmol, 0.46 g | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | Et3N | CCN(CC)CC | C6H15N
solvent | Et3N | 23.8 mmol, 3.32 mL | CCN(CC)CC | C6H15N
product | Dibenzylhydrazine Glycine | 97% | NCC(=O)O.C(C1=CC=CC=C1)NNCC1=CC=CC=C1 | InChI=1S/C14H16N2.C2H5NO2/c1-3-7-13(8-4-1)11-15-16-12-14-9-5-2-6-10-14;3-1-2(4)5/h1-10,15-16H,11-12H2;1,3H2,(H,4,5)
